US07960394B2
(1) Production of 2-(4-hydroxyphenyl)-4(3H)-quinazolinone
The entitled compound was obtained according to the method of Example 1-(2) but starting from 2-aminobenzamide and 4-hydroxybenzaldehyde.

reactant | 2-aminobenzamide | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
product | 2-(4-hydroxyphenyl)-4(3H)-quinazolinone | OC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(N1)=O | C14H10N2O2
